US04234594
5-Amino-3-ethyl-1-methyl pyrazole (British Pat. No. 863,060) (35.2 g.) and 1-acetyl-2-imidazolinone (43.2 g.) were reacted as described in Example I to give 1-acetyl -2-(3-ethyl-1-methyl-5-pyrazolyl) amino-2-imidazoline which was de-acetylated without purification by the method of Example II giving 39.3 g. product. mp 160°-162°

reactant | 5-Amino-3-ethyl-1-methyl pyrazole | NC1=CC(=NN1C)CC | C6H11N3
reactant | 1-acetyl-2-imidazolinone | 43.2 g | C(C)(=O)N1C=NC(C1)=O | C5H6N2O2
product | 1-acetyl -2-(3-ethyl-1-methyl-5-pyrazolyl) amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C)CC | C11H17N5O
